US09359371B2
In DCM (50 mL) was dissolved ethyl 4-((3-fluoro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-carboxylate (2.2 g, 6.3 mmol). m-CPBA (3-chloroperbenzoic acid, 1.1 g, 6.4 mmol) was added. The reaction was conducted at ambient temperature for 30 min. The reaction mixture was washed with water. The organic phase was dried over sodium sulfate and concentrated to give ethyl 4-((3-fluoro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylate. The product was used in the subsequent procedure without further purification.

reactant | ethyl 4-((3-fluoro-4-methoxybenzyl)amino)-2-(methylthio)pyrimidine-5-carboxylate | 6.3 mmol, 2.2 g | FC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)SC)C=CC1OC | C16H18FN3O3S
reactant | m-CPBA | 6.4 mmol, 1.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-((3-fluoro-4-methoxybenzyl)amino)-2-(methylsulfinyl)pyrimidine-5-carboxylate | FC=1C=C(CNC2=NC(=NC=C2C(=O)OCC)S(=O)C)C=CC1OC | C16H18FN3O4S
